### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace): define the inner product on tensor products

### LINKED ISSUE #6020: Tensor products of inner product spaces
There are two lean3 implementations of this for real inner product spaces elsewhere:

1. A [complete implementation](https://github.com/ocfnash/lean-shannon-lovasz/blob/e63e535599ffb3c2a7e995e1621847693dd68fab/src/to_mathlib/analysis/inner_product_space/tensor_product.lean#L404) by @jjaassoonn.
2. A [partial implementation](https://github.com/pygae/lean-ga/blob/2c96457b60941cc1bd52022bba9b79faf6121b7d/src/for_mathlib/linear_algebra/tensor_product/inner_product_space.lean#L36-L38) by me.

Some things we should try to include when merging these into a mathlib contribution:
* Links to `bilin_form.tmul` (or whatever replaces it if we eliminate `bilin_form`):
  * Tensor product of two positive-definite forms is positive definite
  * Tensor product of two semidefinite forms is semidefinite
* A sesquilinear version of `bilin_form.tmul`

See [this zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Tensor.20products.20of.20inner.20product.20spaces/near/300171873) for some more background.

### PR DESCRIPTION
**Pull request by themathqueen**
This defines the inner product on tensor product spaces. Also defines `OrthonormalBasis.tensorProduct`.

The implementation is based on [here](https://github.com/ocfnash/lean-shannon-lovasz/blob/e63e535599ffb3c2a7e995e1621847693dd68fab/src/to_mathlib/analysis/inner_product_space/tensor_product.lean#L404) (by @jjaassoonn), which defines the inner product on real tensor product spaces. The exact same implementation also applies for the general case.

Closes #6020

---

- [x] depends on: #27288

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by themathqueen** [comment]
WIP

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,223 @@
...
+
+end
+
+noncomputable instance TensorProduct.instNormedAddCommGroup : NormedAddCommGroup (E ⊗[𝕜] F) :=
+  @InnerProductSpace.Core.toNormedAddCommGroup 𝕜 (E ⊗[𝕜] F) _ _ _
+  { conj_inner_symm := fun x y => TensorProduct.conj_inner y x
+    add_left := TensorProduct.add_inner
+    smul_left := TensorProduct.smul_inner
+    definite := TensorProduct.inner_definite
+    re_inner_nonneg := TensorProduct.re_inner_self_nonneg }
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: This instance is doing a lot of heavy lifting; it also defines:
* The topology
* The uniform space structure
* The `edist` and `nndist` and `dist` functions
* The `enorm` and `nnnorm` and `norm` functions

Can you add the theorem that says what `norm (x ⊗ₜ[𝕜] y)` is, and analogous results for at least all the `dist` and `norm`s?

**Comment by themathqueen** [comment]
-WIP

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 2]
```diff
@@ -0,0 +1,263 @@
+/-
+Copyright (c) 2025 Monica Omar. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Monica Omar
+-/
+import Mathlib.LinearAlgebra.TensorProduct.Basic
+import Mathlib.Analysis.InnerProductSpace.LinearMap
+import Mathlib.Analysis.InnerProductSpace.PiL2
+import Mathlib.RingTheory.TensorProduct.Finite
+import Mathlib.Analysis.InnerProductSpace.Adjoint
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Please keep imports alphabetical
```suggestion
import Mathlib.Analysis.InnerProductSpace.Adjoint
import Mathlib.Analysis.InnerProductSpace.LinearMap
import Mathlib.Analysis.InnerProductSpace.PiL2
import Mathlib.LinearAlgebra.TensorProduct.Basic
import Mathlib.RingTheory.TensorProduct.Finite
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 3]
```diff
@@ -0,0 +1,263 @@
...
+
+private lemma inner_coe_of_mem_range {x y : E ⊗[𝕜] F} {E' : Submodule 𝕜 E} {F' : Submodule 𝕜 F}
+    (hx : x ∈ LinearMap.range (mapIncl E' F')) (hy : y ∈ LinearMap.range (mapIncl E' F')) :
+    inner 𝕜 hx.choose hy.choose = inner 𝕜 x y :=
+  TensorProduct.inner_coe_of_eq' hx.choose_spec.symm hy.choose_spec.symm
+
+open scoped ComplexOrder
+open Module
+
+private protected theorem inner_definite (x : E ⊗[𝕜] F) (hx : inner 𝕜 x x = 0) : x = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I think `private` is enough!
```suggestion
private theorem inner_definite (x : E ⊗[𝕜] F) (hx : inner 𝕜 x x = 0) : x = 0 := by
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 4]
```diff
@@ -0,0 +1,263 @@
...
+  simp; ring
+
+theorem inner_ext_iff (x y : E ⊗[𝕜] F) :
+    x = y ↔ ∀ (a : E) (b : F), inner 𝕜 x (a ⊗ₜ[𝕜] b) = inner 𝕜 y (a ⊗ₜ[𝕜] b) := by
+  simp_rw [← @sub_eq_zero 𝕜 _ _ (inner _ _ _), ← inner_sub_left]
+  rw [← sub_eq_zero]
+  refine ⟨fun h a b => by rw [h, inner_zero_left], fun h => ext_inner_right 𝕜 fun y => ?_⟩
+  exact y.induction_on (inner_zero_right _) h (fun c d hc hd => by simp [inner_add_right, hc, hd])
+
+theorem inner_ext_threefold_iff {G : Type*} [NormedAddCommGroup G]
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I don't think we use this `threefold` naming convention anywhere. Mind switching to something more standard?

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! I believe @ADedecker had some work towards this as well?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 4 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: We do though: [TensorProduct.ext_threefold](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct/Basic.html#TensorProduct.ext_threefold)

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 5]
```diff
@@ -0,0 +1,263 @@
...
+  x.induction_on (by simp [inner]) (y.induction_on (by simp [inner]) (fun x y => by simp)
+    (fun x y hx hy a b => by simp_all)) (fun x y hx hy => by simp_all)
+
+section move
+
+lemma mem_finiteDimensional_range_mapIncl {K V V' : Type*} [Field K] [AddCommGroup V]
+    [AddCommGroup V'] [Module K V] [Module K V'] (z : V ⊗[K] V') :
+    ∃ (E' : Submodule K V) (F' : Submodule K V')
+    (_ : FiniteDimensional K E') (_ : FiniteDimensional K F'),
+    z ∈ LinearMap.range (mapIncl E' F') :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Should I keep this here?
Or do we think it might be useful outside this file? (On a similar note, I put `Module.mem_finiteDimensional_submodule` in `LinearAlgebra/FiniteDimensional/Basic.lean` since I thought it could be useful.)

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 6]
```diff
@@ -0,0 +1,263 @@
...
+
+variable {𝕜 E F : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedAddCommGroup F]
+  [InnerProductSpace 𝕜 E] [InnerProductSpace 𝕜 F]
+
+open scoped TensorProduct
+
+namespace TensorProduct
+
+instance instInner : Inner 𝕜 (E ⊗[𝕜] F) := ⟨fun x y =>
+  LinearMap.mul' 𝕜 𝕜 ((homTensorHomMap 𝕜 _ _ _ _ ((map (innerₛₗ 𝕜) (innerₛₗ 𝕜)) x)) y)⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I'm pretty sure we can write this as a semi-linear map instead of having all those `private` lemmas down there. @eric-wieser, can you help out here? :eyes:

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Yeah,
```suggestion
  ((lift (mapBilinear 𝕜 E F 𝕜 𝕜)).compr₂ (LinearMap.mul' 𝕜 𝕜) ∘ₛₗ map (innerₛₗ 𝕜) (innerₛₗ 𝕜)) x y⟩
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Oh I guess that's fine then

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Probably earlier is better

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 7]
```diff
@@ -0,0 +1,230 @@
...
+end TensorProduct
+
+section onb
+variable {ι₁ ι₂ : Type*} [DecidableEq ι₁] [DecidableEq ι₂]
+
+open Module
+
+theorem Basis.tensorProduct_orthonormal
+    {b₁ : Basis ι₁ 𝕜 E} {b₂ : Basis ι₂ 𝕜 F} (hb₁ : Orthonormal 𝕜 b₁) (hb₂ : Orthonormal 𝕜 b₂) :
+    Orthonormal 𝕜 (b₁.tensorProduct b₂) := orthonormal_iff_ite.mpr fun ⟨i₁, i₂⟩ ⟨j₁, j₂⟩ => by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Do you really need `b₁` and `b₂` to be bases here? If not, this should be called
```
theorem Orthonormal.tensorProduct
    {b₁ : ι₁ → E} {b₂ : ι₂ → F} (hb₁ : Orthonormal 𝕜 b₁) (hb₂ : Orthonormal 𝕜 b₂) :
    Orthonormal 𝕜 fun i ↦ b₁ i.1 ⊗ₜ b₂ i.2 := orthonormal_iff_ite.mpr fun ⟨i₁, i₂⟩ ⟨j₁, j₂⟩ => by
```
and the special case of bases should be
```suggestion
theorem Orthonormal.basisTensorProduct
    {b₁ : Basis ι₁ 𝕜 E} {b₂ : Basis ι₂ 𝕜 F} (hb₁ : Orthonormal 𝕜 b₁) (hb₂ : Orthonormal 𝕜 b₂) :
    Orthonormal 𝕜 (b₁.tensorProduct b₂) := hb₁.tensorProduct hb₂
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 8]
```diff
@@ -0,0 +1,230 @@
...
+  simp [OrthonormalBasis.tensorProduct]
+
+lemma tensorProduct_repr_tmul_apply'
+    (b₁ : OrthonormalBasis ι₁ 𝕜 E) (b₂ : OrthonormalBasis ι₂ 𝕜 F) (x : E) (y : F) (i : ι₁ × ι₂) :
+    ((b₁.tensorProduct b₂).repr (x ⊗ₜ[𝕜] y)) i = (b₂.repr y i.2) * (b₁.repr x i.1) :=
+  tensorProduct_repr_tmul_apply _ _ _ _ _ _
+
+lemma tensorProduct_toBasis
+    (b₁ : OrthonormalBasis ι₁ 𝕜 E) (b₂ : OrthonormalBasis ι₂ 𝕜 F) :
+    (b₁.tensorProduct b₂).toBasis = b₁.toBasis.tensorProduct b₂.toBasis := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Shouldn't this be simp?

File: Mathlib/LinearAlgebra/FiniteDimensional/Basic.lean [hunk 9]
```diff
@@ -601,4 +601,35 @@ theorem ker_pow_constant {f : End K V} {k : ℕ}
 
 end End
 
+lemma mem_finiteDimensional_submodule (K : Type*) {V : Type*}
+    [DivisionRing K] [AddCommGroup V] [Module K V]
+    (e : V) : ∃ (E' : Submodule K V) (_ : FiniteDimensional K E'), e ∈ E' := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FiniteDimensional/Basic.lean]:
```suggestion
    [DivisionRing K] [AddCommGroup V] [Module K V] (e : V) :
    ∃ (E' : Submodule K V) (_ : FiniteDimensional K E'), e ∈ E' := by
```

**Review by YaelDillies — COMMENTED** [review]
You've now got prerequisites in earlier files. Would you mind splitting them to their own PRs?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 10]
```diff
@@ -0,0 +1,244 @@
...
+
+namespace TensorProduct
+
+/-- Bilinear map for the inner product on tensor products. -/
+private abbrev inner_ :=
+  (lift <| mapBilinear 𝕜 E F 𝕜 𝕜).compr₂ (LinearMap.mul' 𝕜 𝕜) ∘ₛₗ map (innerₛₗ 𝕜) (innerₛₗ 𝕜)
+
+instance instInner : Inner 𝕜 (E ⊗[𝕜] F) := ⟨fun x y => inner_ x y⟩
+
+@[simp] private lemma inner_def_ (x y : E ⊗[𝕜] F) : inner 𝕜 x y = inner_ x y := rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
@[simp] private lemma inner_def (x y : E ⊗[𝕜] F) : inner 𝕜 x y = inner_ x y := rfl
```
no?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 11]
```diff
@@ -0,0 +1,244 @@
...
+      x.induction_on (by simp [inner]) (y.induction_on (by simp [inner]) (fun x y => by simp)
+        (fun x y hx hy a b => by simp_all [inner])) (fun x y hx hy => by simp_all [inner])
+    add_left _ _ _ := by simp [inner]
+    smul_left _ _ _ := by simp [inner]
+    definite := TensorProduct.inner_definite
+    re_inner_nonneg := TensorProduct.re_inner_self_nonneg }
+  this.toNormedAddCommGroup
+
+instance instInnerProductSpace : InnerProductSpace 𝕜 (E ⊗[𝕜] F) :=
+  InnerProductSpace.ofCore _
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
  .ofCore _
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 12]
```diff
@@ -0,0 +1,244 @@
...
+    {b₁ : Basis ι₁ 𝕜 E} {b₂ : Basis ι₂ 𝕜 F} (hb₁ : Orthonormal 𝕜 b₁) (hb₂ : Orthonormal 𝕜 b₂) :
+    Orthonormal 𝕜 (b₁.tensorProduct b₂) := by
+  have := hb₁.tensorProduct hb₂
+  rwa [(by ext; simp [Basis.tensorProduct] : ⇑(b₁.tensorProduct b₂) = fun i ↦ b₁ i.1 ⊗ₜ[𝕜] b₂ i.2)]
+
+namespace OrthonormalBasis
+variable [Fintype ι₁] [Fintype ι₂]
+
+/-- The orthonormal basis of the tensor product of two orthonormal bases. -/
+protected noncomputable def tensorProduct
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:380]: Does simps generate some of the below lemmas?
```suggestion
@[simps]
protected noncomputable def tensorProduct
```

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:380]: Nope, it generates a general `_repr_apply` which isn't really useful for tensor products.

Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:380]: What about
```suggestion
@[simps toBasis]
protected noncomputable def tensorProduct
```

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:380]: That just gives errors. It says please use `simps!`, then `simps! toBasis` gives a whole new set of errors: "Structure OrthonormalBasis does not have projection toBasis".

I think the problem is the same as the one for `Basis.tensorProduct`, where we don't want it to just be `(b₁.tensorProduct b₂).repr x i` for a tensor product element `x`, but rather `(b₁.tensorProduct b₂).repr (x ⊗ₜ y) i`.

Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:380]: Hmm, weird

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 13]
```diff
@@ -0,0 +1,244 @@
...
+  refine ⟨fun h a b => by simp [h, inner_zero_left], fun h => (inner_ext_iff _ _).mpr fun z b => ?_⟩
+  exact z.induction_on (by simp) (by simp [h]) (fun c d hc hd => by
+    simp [add_tmul, inner_add_right, hc, hd])
+
+section FiniteDimensional
+variable [FiniteDimensional 𝕜 E] [FiniteDimensional 𝕜 F]
+
+theorem comm_adjoint :
+    LinearMap.adjoint (TensorProduct.comm 𝕜 E F).toLinearMap =
+      (TensorProduct.comm 𝕜 E F).symm.toLinearMap := TensorProduct.ext' fun x y => by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
@[simp]
theorem adjoint_comm :
    LinearMap.adjoint (TensorProduct.comm 𝕜 E F).toLinearMap =
      (TensorProduct.comm 𝕜 E F).symm.toLinearMap := TensorProduct.ext' fun x y => by
```
no? Same below

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 14]
```diff
@@ -0,0 +1,282 @@
...
+        c.induction_on (by simp) (by simp [mul_assoc])
+        (fun _ _ h1 h2 => by simp only [add_tmul, inner_add_right, map_add, h1, h2]))
+      (fun _ _ h1 h2 => by simp only [add_tmul, inner_add_left, map_add, h1, h2]))
+    (fun _ _ h1 h2 => by simp only [inner_add_right, map_add, h1, h2]))
+    (fun _ _ h1 h2 => by simp only [inner_add_left, map_add, h1, h2])
+
+variable (𝕜 E F G) in
+/-- The linear isometry equivalence version of `TensorProduct.lid`. -/
+@[simps!]
+def assocLinearIsometryEquiv : (E ⊗[𝕜] F ⊗[𝕜] G) ≃ₗᵢ[𝕜] (E ⊗[𝕜] (F ⊗[𝕜] G)) where
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Are the precedences wrong for
```suggestion
def assocLinearIsometryEquiv : E ⊗[𝕜] F ⊗[𝕜] G ≃ₗᵢ[𝕜] E ⊗[𝕜] (F ⊗[𝕜] G) where
```
to work?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 15]
```diff
@@ -0,0 +1,282 @@
...
+  simp only [Finset.mem_univ, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true, pow_eq_zero_iff,
+    map_eq_zero, norm_eq_zero, forall_const, Prod.forall] at hx
+  have : y = 0 := by
+    rw [Basis.ext_elem_iff (e.toBasis.tensorProduct f.toBasis)]
+    simp only [hx, map_zero, Finsupp.coe_zero, Pi.zero_apply, implies_true]
+  rw [← hz.choose_spec, ← hy, this, map_zero]
+
+private protected theorem re_inner_self_nonneg (x : E ⊗[𝕜] F) :
+    0 ≤ RCLike.re (inner 𝕜 x x) := by
+  obtain ⟨E', F', iE', iF', hz⟩ := exists_finite_submodule_of_finite {x} (Set.finite_singleton x)
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: You need to merge master now that your other PR went through

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 16]
```diff
@@ -0,0 +1,282 @@
...
+  rw [Set.singleton_subset_iff] at hz
+  rw [← inner_coe_of_mem_range hz hz]
+  let y := hz.choose
+  obtain e := stdOrthonormalBasis 𝕜 E'
+  obtain f := stdOrthonormalBasis 𝕜 F'
+  have hy : y = hz.choose := rfl
+  rw [← hy]
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
  set y := hz.choose
  obtain e := stdOrthonormalBasis 𝕜 E'
  obtain f := stdOrthonormalBasis 𝕜 F'
```
or maybe just
```suggestion
  obtain ⟨y, rfl⟩ := hz
  obtain e := stdOrthonormalBasis 𝕜 E'
  obtain f := stdOrthonormalBasis 𝕜 F'
```
no?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 17]
```diff
@@ -0,0 +1,278 @@
...
+    b₁.tensorProduct b₂ (i, j) = b₁ i ⊗ₜ[𝕜] b₂ j := by simp [OrthonormalBasis.tensorProduct]
+
+lemma tensorProduct_apply'
+    (b₁ : OrthonormalBasis ι₁ 𝕜 E) (b₂ : OrthonormalBasis ι₂ 𝕜 F) (i : ι₁ × ι₂) :
+    b₁.tensorProduct b₂ i = b₁ i.1 ⊗ₜ[𝕜] b₂ i.2 := tensorProduct_apply _ _ _ _
+
+@[simp]
+lemma tensorProduct_repr_tmul_apply (b₁ : OrthonormalBasis ι₁ 𝕜 E) (b₂ : OrthonormalBasis ι₂ 𝕜 F)
+    (x : E) (y : F) (i : ι₁) (j : ι₂) :
+    ((b₁.tensorProduct b₂).repr (x ⊗ₜ[𝕜] y)) (i, j) = (b₂.repr y j) * (b₁.repr x i) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
    (b₁.tensorProduct b₂).repr (x ⊗ₜ[𝕜] y) (i, j) = b₂.repr y j * b₁.repr x i := by
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 18]
```diff
@@ -0,0 +1,278 @@
...
+  simp [OrthonormalBasis.tensorProduct]
+
+lemma tensorProduct_repr_tmul_apply'
+    (b₁ : OrthonormalBasis ι₁ 𝕜 E) (b₂ : OrthonormalBasis ι₂ 𝕜 F) (x : E) (y : F) (i : ι₁ × ι₂) :
+    ((b₁.tensorProduct b₂).repr (x ⊗ₜ[𝕜] y)) i = (b₂.repr y i.2) * (b₁.repr x i.1) :=
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
    (b₁.tensorProduct b₂).repr (x ⊗ₜ[𝕜] y) i = b₂.repr y i.2 * b₁.repr x i.1 :=
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 19]
```diff
@@ -0,0 +1,278 @@
...
+
+private lemma inner_coe_of_eq' {x y : E ⊗[𝕜] F} {E' : Submodule 𝕜 E} {F' : Submodule 𝕜 F}
+    {x' y' : E' ⊗[𝕜] F'} (hx : x = mapIncl E' F' x') (hy : y = mapIncl E' F' y') :
+    inner 𝕜 x' y' = inner 𝕜 x y :=
+  hx ▸ hy ▸ inner_coe_of_eq
+
+private lemma inner_coe_of_mem_range {x y : E ⊗[𝕜] F} {E' : Submodule 𝕜 E} {F' : Submodule 𝕜 F}
+    (hx : x ∈ LinearMap.range (mapIncl E' F')) (hy : y ∈ LinearMap.range (mapIncl E' F')) :
+    inner 𝕜 hx.choose hy.choose = inner 𝕜 x y :=
+  TensorProduct.inner_coe_of_eq' hx.choose_spec.symm hy.choose_spec.symm
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: These are weird lemmas to have: Why not use `inner_coe_of_eq` directly?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 20]
```diff
@@ -0,0 +1,278 @@
...
+instance instInner : Inner 𝕜 (E ⊗[𝕜] F) := ⟨fun x y => inner_ x y⟩
+
+@[simp] private lemma inner_def (x y : E ⊗[𝕜] F) : inner 𝕜 x y = inner_ x y := rfl
+
+@[simp] theorem inner_tmul (x x' : E) (y y' : F) :
+    inner 𝕜 (x ⊗ₜ[𝕜] y) (x' ⊗ₜ[𝕜] y') = inner 𝕜 x x' * inner 𝕜 y y' := rfl
+
+private lemma inner_coe_of_eq {E' : Submodule 𝕜 E} {F' : Submodule 𝕜 F} {x y : E' ⊗[𝕜] F'} :
+    inner 𝕜 x y = inner 𝕜 (mapIncl E' F' x) (mapIncl E' F' y) :=
+  x.induction_on (by simp) (y.induction_on (by simp) (by simp) (by simp_all)) (by simp_all)
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Doesn't this look like a good simp lemma backwards?
```suggestion
@[simp] lemma inner_mapIncl_mapIncl (E' : Submodule 𝕜 E) (F' : Submodule 𝕜 F} (x y : E' ⊗[𝕜] F') :
    inner 𝕜 (mapIncl E' F' x) (mapIncl E' F' y) = inner 𝕜 x y :=
  x.induction_on (by simp) (y.induction_on (by simp) (by simp) (by simp_all)) (by simp_all)
```

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: maybe, or keep maybe keep it private and upgrade `mapIncl` to a linear isometry? or make it a `simp` and upgrade it to a linear isometry (I did this for now)?

Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: How would you upgrade `mapIncl` to a linear isometry? It's defined for arbitrary tensor products

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 21]
```diff
@@ -0,0 +1,278 @@
...
+  norm_map' x := by simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_mapIncl_mapIncl]
+
+@[simp] lemma toLinearMap_mapInclLinearIsometry (E' : Submodule 𝕜 E) (F' : Submodule 𝕜 F) :
+    (mapInclLinearIsometry E' F').toLinearMap = mapIncl E' F' := rfl
+
+@[simp] theorem inner_comm_comm (x y : E ⊗[𝕜] F) :
+    inner 𝕜 (TensorProduct.comm 𝕜 E F x) (TensorProduct.comm 𝕜 E F y) = inner 𝕜 x y :=
+  x.induction_on (by simp) (fun _ _ => y.induction_on (by simp) (by simp [mul_comm])
+    (fun _ _ h1 h2 => by simp only [inner_add_right, map_add, h1, h2]))
+    (fun _ _ h1 h2 => by simp only [inner_add_left, map_add, h1, h2])
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Can you move this one and alike just below the `mapIncl` lemma?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 20 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I meant make a new definition `mapInclLinearIsometry` for when they are inner product spaces (see line 146 in the file)

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 21 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: could, but the proof seems much slower on my end

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: also, can't move `inner_assoc_assoc`, so might as well just keep them where they are

Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Why can't `inner_assoc_assoc` move, out of curiosity?

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: it fails to synthesize both `Inner 𝕜 (E ⊗[𝕜] F ⊗[𝕜] G)` and `Inner 𝕜 (E ⊗[𝕜] (F ⊗[𝕜] G))`

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: which makes sense since the `Inner` instance on tensor products is defined on inner product spaces (which isn't an instance yet if we move it up there)

**Review by YaelDillies — APPROVED** [review]
Thanks! That's very good work.

maintainer merge

**Comment by sgouezel** [comment]
This is great!
Could you explain in the file-level docstring how you construct the inner product on the tensor product? And add a few comments to the nontrivial proofs, and a few docstrings to the nontrivial statements?

File: Mathlib/LinearAlgebra/TensorProduct/Basis.lean [hunk 22]
```diff
@@ -53,6 +53,11 @@ theorem tensorProduct_repr_tmul_apply (b : Basis ι S M) (c : Basis κ R N) (m :
     (tensorProduct b c).repr (m ⊗ₜ n) (i, j) = c.repr n j • b.repr m i := by
   simp [tensorProduct]
 
+@[simp]
+lemma coe_tensorProduct (b : Basis ι R M) (c : Basis κ R N) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: Do we want this as a simp lemma?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: maybe, why not?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 23]
```diff
@@ -0,0 +1,316 @@
...
+theorem edist_tmul_le (x x' : E) (y y' : F) :
+    edist (x ⊗ₜ[𝕜] y) (x' ⊗ₜ y') ≤ ‖x‖ₑ * ‖y‖ₑ + ‖x'‖ₑ * ‖y'‖ₑ := by
+  grw [edist_eq_enorm_sub, enorm_sub_le]; simp
+
+theorem _root_.RCLike.inner_tmul_eq (a b c d : 𝕜) :
+    inner 𝕜 (a ⊗ₜ[𝕜] b) (c ⊗ₜ[𝕜] d) = inner 𝕜 (a * b) (c * d) := by
+  simp; ring
+
+theorem ext_inner_right_iff (x y : E ⊗[𝕜] F) :
+    x = y ↔ ∀ a b, inner 𝕜 x (a ⊗ₜ[𝕜] b) = inner 𝕜 y (a ⊗ₜ[𝕜] b) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Can you show the more elementary
```suggestion
    x = y ↔ inner 𝕜 x = inner 𝕜 y := by
```
which is one or two `ext_iff`s away?

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: isn't that just the reverse of [innerSL_inj](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Dual.html#innerSL_inj)?

**Comment by themathqueen** [comment]
@sgouezel, I added some comments and docstrings. Let me know if I should add more (or clarify things more, or whatever).

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 24]
```diff
@@ -0,0 +1,371 @@
...
+variable {𝕜 E F G : Type*} [RCLike 𝕜]
+  [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+  [NormedAddCommGroup F] [InnerProductSpace 𝕜 F]
+  [NormedAddCommGroup G] [InnerProductSpace 𝕜 G]
+
+open scoped TensorProduct
+
+namespace TensorProduct
+
+/-- Bilinear map for the inner product on tensor products. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Can you say what this map does?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 25]
```diff
@@ -0,0 +1,371 @@
...
+open scoped ComplexOrder
+open Module
+
+private theorem inner_definite (x : E ⊗[𝕜] F) (hx : inner 𝕜 x x = 0) : x = 0 := by
+  /-
+  The way we prove this is by first noting that every element of a tensor product lies
+  in the tensor product of some finite submodules.
+  So for `x : E ⊗ F`, there exists finite submodules `E', F'` such that `x ∈ mapIncl E' F'`.
+  Let `y : E' ⊗ F'` such that `x = mapIncl E' F' y`.
+  Let `e` be the orthonormal basis of `E'` and `f` be the orthonomal basis of `F'`.
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
  Let `e` be an orthonormal basis of `E'` and `f` be an orthonomal basis of `F'`.
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 26]
```diff
@@ -0,0 +1,371 @@
...
+    simp only [hx, map_zero, Finsupp.coe_zero, Pi.zero_apply, implies_true]
+  rw [← hz.choose_spec, (by rfl : hz.choose = y), this, map_zero]
+
+private protected theorem re_inner_self_nonneg (x : E ⊗[𝕜] F) :
+    0 ≤ RCLike.re (inner 𝕜 x x) := by
+  /-
+  Similarly to the above proof, for `x : E ⊗ F`, there exists finite submodules `E', F'` such that
+  `x ∈ mapIncl E' F'`.
+  Let `y : E' ⊗ F'` such that `x = mapIncl E' F' y`.
+  Let `e` be the orthonormal basis of `E'` and `f` be the orthonomal basis of `F'`.
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
  Let `e` be an orthonormal basis of `E'` and `f` be an orthonomal basis of `F'`.
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Also "orthonormal" is misspelled

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: ditto

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 23 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Yes, but I think you can use it to get a slicker proof :)

File: Mathlib/LinearAlgebra/TensorProduct/Basis.lean (hunk 22 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: I think we prefer not to have lambdas on the RHS of simp lemmas, and only tag the fully applied version as simp.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 27]
```diff
@@ -0,0 +1,370 @@
...
+* `TensorProduct.instNormedAddCommGroup`: the normed additive group structure on tensor products,
+where `‖x ⊗ₜ y‖ = ‖x‖ * ‖y‖`.
+* `TensorProduct.instInnerProductSpace`: the inner product space structure on tensor products, where
+`⟪a ⊗ₜ b, c ⊗ₜ d⟫ = ⟪a, c⟫ * ⟪b, d⟫`.
+* `TensorProduct.mapInclLinearIsometry`: the linear isometry version of `TensorProduct.mapIncl`.
+* `TensorProduct.commLinearIsometryEquiv`: the linear isometry version of `TensorProduct.comm`.
+* `TensorProduct.lidLinearIsometryEquiv`: the linear isometry version of `TensorProduct.lid`.
+* `TensorProduct.assocLinearIsometryEquiv`: the linear isometry version of `TensorProduct.assoc`.
+* `OrthonormalBasis.tensorProduct`: the orthonormal basis of the tensor product of two orthonormal
+bases.
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
* `OrthonormalBasis.tensorProduct`: the orthonormal basis of the tensor product of two orthonormal
  bases.
```
throughout

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 28]
```diff
@@ -0,0 +1,370 @@
...
+
+private lemma inner_def (x y : E ⊗[𝕜] F) : inner 𝕜 x y = inner_ x y := rfl
+
+@[simp] theorem inner_tmul (x x' : E) (y y' : F) :
+    inner 𝕜 (x ⊗ₜ[𝕜] y) (x' ⊗ₜ[𝕜] y') = inner 𝕜 x x' * inner 𝕜 y y' := rfl
+
+lemma inner_mapIncl_mapIncl (E' : Submodule 𝕜 E) (F' : Submodule 𝕜 F) (x y : E' ⊗[𝕜] F') :
+    inner 𝕜 (mapIncl E' F' x) (mapIncl E' F' y) = inner 𝕜 x y :=
+  x.induction_on (by simp [inner_def]) (y.induction_on (by simp [inner_def]) (by simp)
+    (by simp_all [inner_def])) (by simp_all [inner_def])
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Is there a more general statement about `map` here? What's special about `mapIncl`?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 29]
```diff
@@ -0,0 +1,370 @@
...
+/-- Given `x, y : E ⊗ F ⊗ G`, `x = y` iff `⟪x, a ⊗ₜ b ⊗ₜ c⟫ = ⟪y, a ⊗ₜ b ⊗ₜ c⟫` for all `a, b, c`.
+
+See also `ext_iff_inner_right_threefold'` for when `x, y : E ⊗ (F ⊗ G)`. -/
+theorem ext_iff_inner_right_threefold {x y : E ⊗[𝕜] F ⊗[𝕜] G} :
+    x = y ↔ ∀ a b c, inner 𝕜 x (a ⊗ₜ[𝕜] b ⊗ₜ[𝕜] c) = inner 𝕜 y (a ⊗ₜ[𝕜] b ⊗ₜ[𝕜] c) := by
+  simp_rw [← @sub_eq_zero 𝕜 _ _ (inner _ _ _), ← inner_sub_left]
+  rw [← sub_eq_zero]
+  exact ⟨fun h a b => by simp [h, inner_zero_left], fun h => TensorProduct.ext_iff_inner_right.mpr
+    fun z b => z.induction_on (by simp) (by simp [h])
+    fun c d hc hd => by simp [add_tmul, inner_add_right, hc, hd]⟩
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Here you can also probably get a slicker proof via `innerSL_inj` and `TensorProduct.ext_threefold_iff`

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 30]
```diff
@@ -0,0 +1,370 @@
...
+  simpa only [← inner_conj_symm x, ← inner_conj_symm y, starRingEnd_apply, star_inj] using
+    ext_iff_inner_right_threefold (x := x) (y := y)
+
+section isometry
+
+/-- The linear isometry version of `TensorProduct.mapIncl`. -/
+def mapInclLinearIsometry (E' : Submodule 𝕜 E) (F' : Submodule 𝕜 F) :
+    E' ⊗[𝕜] F' →ₗᵢ[𝕜] E ⊗[𝕜] F where
+  toLinearMap := mapIncl E' F'
+  norm_map' x := by simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_mapIncl_mapIncl]
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Again, do we not care more about the `map` version?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 31]
```diff
@@ -0,0 +1,370 @@
...
+
+See also `ext_iff_inner_left_threefold` for when `x, y : E ⊗ F ⊗ G`. -/
+theorem ext_iff_inner_left_threefold' {x y : E ⊗[𝕜] (F ⊗[𝕜] G)} :
+    x = y ↔ ∀ a b c, inner 𝕜 (a ⊗ₜ[𝕜] (b ⊗ₜ[𝕜] c)) x = inner 𝕜 (a ⊗ₜ[𝕜] (b ⊗ₜ[𝕜] c)) y := by
+  simpa only [← inner_conj_symm x, ← inner_conj_symm y, starRingEnd_apply, star_inj] using
+    ext_iff_inner_right_threefold' (x := x) (y := y)
+
+end TensorProduct
+
+section onb
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: `onb`?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 28 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: This is basically [Submodule.coe_inner](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Subspace.html#Submodule.coe_inner). That's what's special about this.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 32]
```diff
@@ -0,0 +1,370 @@
...
+variable {ι₁ ι₂ : Type*} [DecidableEq ι₁] [DecidableEq ι₂]
+
+open Module
+
+/-- The tensor product of two orthonormal vectors is orthonormal. -/
+theorem Orthonormal.tensorProduct
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Or should this be called `tmul`, naming the operation not the type?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 31 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: OrthoNormalBasis lol. I'll change it to that

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 32 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: (the other `tensorProduct` below is already correctly named)

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 29 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Ah, we don't have `ext_threefold_iff`. Shouldn't it be `ext_iff_threefold`? I did golf using `ext_threefold` though. Will leave the `_iff` versions for another PR.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 32 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Yeah, sure, why not

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 28 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: But, yeah, no, we can have this for isometries. Should we keep this? Make it private?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 30 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: added `mapLinearIsometry`: the tensor product map of two linear isometries. Not sure about the name though.
Maybe `LinearIsometry.tensorProductMap`?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 28 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I removed it, since it's just a special version of the new lemma now.

**Comment by themathqueen** [comment]
@eric-wieser, let me know if you're happy with the changes :)

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 33]
```diff
@@ -0,0 +1,383 @@
...
+  (lift <| mapBilinear 𝕜 E F 𝕜 𝕜).compr₂ (LinearMap.mul' 𝕜 𝕜) ∘ₛₗ map (innerₛₗ 𝕜) (innerₛₗ 𝕜)
+
+instance instInner : Inner 𝕜 (E ⊗[𝕜] F) := ⟨fun x y => inner_ x y⟩
+
+private lemma inner_def (x y : E ⊗[𝕜] F) : inner 𝕜 x y = inner_ x y := rfl
+
+@[simp] theorem inner_tmul (x x' : E) (y y' : F) :
+    inner 𝕜 (x ⊗ₜ[𝕜] y) (x' ⊗ₜ[𝕜] y') = inner 𝕜 x x' * inner 𝕜 y y' := rfl
+
+lemma inner_map_linearIsometry_linearIsometry (f : E →ₗᵢ[𝕜] G) (g : F →ₗᵢ[𝕜] H) (x y : E ⊗[𝕜] F) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: or how about?
```suggestion
lemma inner_map_map_linearIsometry (f : E →ₗᵢ[𝕜] G) (g : F →ₗᵢ[𝕜] H) (x y : E ⊗[𝕜] F) :
```

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I think `inner_map_map` is sufficient here

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 34]
```diff
@@ -0,0 +1,383 @@
...
+theorem ext_iff_inner_left_threefold {x y : E ⊗[𝕜] F ⊗[𝕜] G} :
+    x = y ↔ ∀ a b c, inner 𝕜 (a ⊗ₜ b ⊗ₜ c) x = inner 𝕜 (a ⊗ₜ b ⊗ₜ c) y := by
+  simpa only [← inner_conj_symm x, ← inner_conj_symm y, starRingEnd_apply, star_inj] using
+    ext_iff_inner_right_threefold (x := x) (y := y)
+
+section isometry
+
+/-- The tensor product map of two linear isometries is a linear isometry. In particular, this is
+the linear isometry version of `TensorProduct.map f g` when `f` and `g` are linear isometries. -/
+def mapLinearIsometry (f : E →ₗᵢ[𝕜] G) (g : F →ₗᵢ[𝕜] H) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I think you should be able to semilinearize this?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 35]
```diff
@@ -0,0 +1,383 @@
...
+  [NormedAddCommGroup G] [InnerProductSpace 𝕜 G]
+  [NormedAddCommGroup H] [InnerProductSpace 𝕜 H]
+
+open scoped TensorProduct
+
+namespace TensorProduct
+
+/-- Bilinear map for the inner product on tensor products.
+On pure tensors: `inner_ (a ⊗ₜ b) (c ⊗ₜ d) = ⟪a, c⟫ * ⟪b, d⟫`. -/
+private abbrev inner_ :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Please add the type here

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 33 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Also, this should definitely be `simp`!

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 34 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Not here. We first need to semilinearize `LinearIsometry.inner_map_map` and stuff to be able to semilinearize this, I think. So next PR.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 36]
```diff
@@ -0,0 +1,382 @@
...
+
+instance instInner : Inner 𝕜 (E ⊗[𝕜] F) := ⟨fun x y => inner_ x y⟩
+
+private lemma inner_def (x y : E ⊗[𝕜] F) : inner 𝕜 x y = inner_ x y := rfl
+
+@[simp] theorem inner_tmul (x x' : E) (y y' : F) :
+    inner 𝕜 (x ⊗ₜ[𝕜] y) (x' ⊗ₜ[𝕜] y') = inner 𝕜 x x' * inner 𝕜 y y' := rfl
+
+@[simp] lemma inner_map_map (f : E →ₗᵢ[𝕜] G) (g : F →ₗᵢ[𝕜] H) (x y : E ⊗[𝕜] F) :
+    inner 𝕜 (map f.toLinearMap g.toLinearMap x) (map f.toLinearMap g.toLinearMap y) = inner 𝕜 x y :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:71]: Is there a `norm` (and `nnorm`, ...) version of this statement? Probably you can prove it from the `LinearIsometry` you create below.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 37]
```diff
@@ -0,0 +1,382 @@
...
+    ext_iff_inner_right_threefold (x := x) (y := y)
+
+section isometry
+
+/-- The tensor product map of two linear isometries is a linear isometry. In particular, this is
+the linear isometry version of `TensorProduct.map f g` when `f` and `g` are linear isometries. -/
+def mapLinearIsometry (f : E →ₗᵢ[𝕜] G) (g : F →ₗᵢ[𝕜] H) :
+    E ⊗[𝕜] F →ₗᵢ[𝕜] G ⊗[𝕜] H where
+  toLinearMap := map f.toLinearMap g.toLinearMap
+  norm_map' x := by simp [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_map_map]
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I think you can golf this with `LinearMap.isometryOfInner` (and elsewhere)

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 38]
```diff
@@ -0,0 +1,382 @@
...
+    inner 𝕜 (TensorProduct.comm 𝕜 E F x) (TensorProduct.comm 𝕜 E F y) = inner 𝕜 x y :=
+  x.induction_on (by simp) (fun _ _ => y.induction_on (by simp) (by simp [mul_comm])
+    (fun _ _ h1 h2 => by simp only [inner_add_right, map_add, h1, h2]))
+    (fun _ _ h1 h2 => by simp only [inner_add_left, map_add, h1, h2])
+
+variable (𝕜 E F) in
+/-- The linear isometry equivalence version of `TensorProduct.comm`. -/
+def commLinearIsometryEquiv : E ⊗[𝕜] F ≃ₗᵢ[𝕜] F ⊗[𝕜] E where
+  toLinearEquiv := TensorProduct.comm 𝕜 E F
+  norm_map' _ := by simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_comm_comm]
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: `LinearEquiv.isometryOfInner` golfs this.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 36 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:71]: Well, yeah, of course. But you can get all of those via `TensorProduct.mapLinearIsometry`, instead of duplicating them.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 39]
```diff
@@ -0,0 +1,382 @@
...
+theorem ext_iff_inner_left_threefold {x y : E ⊗[𝕜] F ⊗[𝕜] G} :
+    x = y ↔ ∀ a b c, inner 𝕜 (a ⊗ₜ b ⊗ₜ c) x = inner 𝕜 (a ⊗ₜ b ⊗ₜ c) y := by
+  simpa only [← inner_conj_symm x, ← inner_conj_symm y, starRingEnd_apply, star_inj] using
+    ext_iff_inner_right_threefold (x := x) (y := y)
+
+section isometry
+
+/-- The tensor product map of two linear isometries is a linear isometry. In particular, this is
+the linear isometry version of `TensorProduct.map f g` when `f` and `g` are linear isometries. -/
+def mapLinearIsometry (f : E →ₗᵢ[𝕜] G) (g : F →ₗᵢ[𝕜] H) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Could you add the `congrLinearIsometry` version too, an `IsometryEquiv`?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 36 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:71]: Sure, but those won't work with `simp` and the duplicates will.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 39 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: this?
```lean
def congrLinearIsometry (f : E ≃ₗᵢ[𝕜] G) (g : F ≃ₗᵢ[𝕜] H) :
    E ⊗[𝕜] F ≃ₗᵢ[𝕜] G ⊗[𝕜] H :=
  let toLinearEquiv : E ⊗[𝕜] F ≃ₗ[𝕜] G ⊗[𝕜] H :=
  { toLinearMap := map f.toLinearMap g.toLinearMap
    invFun := map f.symm.toLinearMap g.symm.toLinearMap
    left_inv _ := by simp [map_map]
    right_inv _ := by simp [map_map] }
  toLinearEquiv.isometryOfInner <| inner_map_map f.toLinearIsometry g.toLinearIsometry
```

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: `toLinearequiv` is `TensorProduct.congr`

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: But otherwise that looks right, along with a simp lemma about `toLinearEquiv` and `symm` and `tmul`

Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Could you add the `simp` theorem that when applied to `id id` this gives `id`? The proof should be `toLinearMap_injective map_id` or similar.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 40]
```diff
@@ -0,0 +1,382 @@
...
+
+@[simp] theorem inner_comm_comm (x y : E ⊗[𝕜] F) :
+    inner 𝕜 (TensorProduct.comm 𝕜 E F x) (TensorProduct.comm 𝕜 E F y) = inner 𝕜 x y :=
+  x.induction_on (by simp) (fun _ _ => y.induction_on (by simp) (by simp [mul_comm])
+    (fun _ _ h1 h2 => by simp only [inner_add_right, map_add, h1, h2]))
+    (fun _ _ h1 h2 => by simp only [inner_add_left, map_add, h1, h2])
+
+variable (𝕜 E F) in
+/-- The linear isometry equivalence version of `TensorProduct.comm`. -/
+def commLinearIsometryEquiv : E ⊗[𝕜] F ≃ₗᵢ[𝕜] F ⊗[𝕜] E where
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
def commLinearIsometry : E ⊗[𝕜] F ≃ₗᵢ[𝕜] F ⊗[𝕜] E where
```
or maybe just
```suggestion
def commIsometry : E ⊗[𝕜] F ≃ₗᵢ[𝕜] F ⊗[𝕜] E where
```
since `comm` is already a `(Linear)Equiv`

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: yeah, let's change them all to the latter

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 39 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I was planning on leaving this for the next PR. So I can add `LinearIsometry.rTensor` and `LinearIsometry.lTensor` too.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 36 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:71]: Alright. Should I add them for only `TensorProduct.map` or should I also do `.comm`, `.assoc`, etc...?

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:71]: I added them for all

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 41]
```diff
@@ -0,0 +1,427 @@
...
+    y.induction_on (by simp) (fun c d =>
+      a.induction_on (by simp) (fun e f =>
+        c.induction_on (by simp) (by simp [mul_assoc])
+        (fun _ _ h1 h2 => by simp only [add_tmul, inner_add_right, map_add, h1, h2]))
+      (fun _ _ h1 h2 => by simp only [add_tmul, inner_add_left, map_add, h1, h2]))
+    (fun _ _ h1 h2 => by simp only [inner_add_right, map_add, h1, h2]))
+  (fun _ _ h1 h2 => by simp only [inner_add_left, map_add, h1, h2])
+
+variable (𝕜 E F G) in
+/-- The linear isometry equivalence version of `TensorProduct.lid`. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: This should say `assoc`, right?

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Yup, whoops.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 42]
```diff
@@ -0,0 +1,427 @@
...
+  Let `y : E' ⊗ F'` such that `x = mapIncl E' F' y`.
+  Let `e` be an orthonormal basis of `E'` and `f` be an orthonormal basis of `F'`.
+  Then it is easy to see that because `⟪x, x⟫ = 0`, we get
+  `(e.toBasis.tensorProduct f.toBasis).repr y (i, j) = 0` for all `i, j`. Which means `y = 0`.
+  And so `x = 0`.
+  -/
+  obtain ⟨E', F', iE', iF', hz⟩ := exists_finite_submodule_of_setFinite {x} (Set.finite_singleton x)
+  rw [Set.singleton_subset_iff] at hz
+  rw [← hz.choose_spec, inner_mapIncl_mapIncl] at hx
+  set y := hz.choose
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Instead of using `choose` and `set` here, why not use `obtain` again?

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Something like `obtain ⟨y, rfl⟩ := hz` should work

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: I don't remember the reason, but `obtain` doesn't work here. Like the proof wouldn't work, I mean.

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Oh, it's because we want to replace `hz.choose` with `y`, doing `obtain ⟨y, rfl⟩ := hz` replaces `x` with `(mapIncl E' F') y`.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 43]
```diff
@@ -0,0 +1,425 @@
...
+
+private theorem inner_definite (x : E ⊗[𝕜] F) (hx : inner 𝕜 x x = 0) : x = 0 := by
+  /-
+  The way we prove this is by first noting that every element of a tensor product lies
+  in the tensor product of some finite submodules.
+  So for `x : E ⊗ F`, there exists finite submodules `E', F'` such that `x ∈ mapIncl E' F'`.
+  Let `y : E' ⊗ F'` such that `x = mapIncl E' F' y`.
+  Let `e` be an orthonormal basis of `E'` and `f` be an orthonormal basis of `F'`.
+  Then it is easy to see that because `⟪x, x⟫ = 0`, we get
+  `(e.toBasis.tensorProduct f.toBasis).repr y (i, j) = 0` for all `i, j`. Which means `y = 0`.
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Why not write this as a `have` instead of a comment?
```
have : ∀ i j, (e.toBasis.tensorProduct f.toBasis).repr y (i, j) = 0 := by
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 44]
```diff
@@ -0,0 +1,425 @@
...
+  And so `x = 0`.
+  -/
+  obtain ⟨E', F', iE', iF', hz⟩ := exists_finite_submodule_of_setFinite {x} (Set.finite_singleton x)
+  obtain ⟨y, rfl⟩ := Set.singleton_subset_iff.mp hz
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: If you wanted you could write
```suggestion
  obtain ⟨y : E' ⊗ F', rfl : mapIncl E' F' y = x⟩ := Set.singleton_subset_iff.mp hz
```
which then makes the "Let `y : E' ⊗ F'` such that `x = mapIncl E' F' y`." comment mostly useless.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 45]
```diff
@@ -0,0 +1,425 @@
...
+    map_eq_zero, norm_eq_zero, forall_const, Prod.forall] at hx
+  have : y = 0 := by
+    rw [Basis.ext_elem_iff (e.toBasis.tensorProduct f.toBasis)]
+    simp only [hx, map_zero, Finsupp.coe_zero, Pi.zero_apply, implies_true]
+  rw [this, map_zero]
+
+private protected theorem re_inner_self_nonneg (x : E ⊗[𝕜] F) :
+    0 ≤ RCLike.re (inner 𝕜 x x) := by
+  /-
+  Similarly to the above proof, for `x : E ⊗ F`, there exists finite submodules `E', F'` such that
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean:116]: I think there is a common result here,
```lean
-- holds in any inner product space, but we want this to set up the instance
private theorem inner_self [Fintype ι] [Fintype ι'] (x : E ⊗[𝕜] F) (be : OrthonormalBasis ι 𝕜 E) (bf : OrthonormalBasis ι' 𝕜 F) :
    inner 𝕜 x x = ∑ i, ‖(be.toBasis.tensorProduct bf.toBasis).repr x i‖^2
```

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 42 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Yes, but why do you have `hz.choose` in your goal in the first place?

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: Nevermind that, I wasn't thinking straight. I changed it shortly after that comment lol.

**Comment by themathqueen** [comment]
@eric-wieser, are we happy to merge this now?

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean [hunk 46]
```diff
@@ -0,0 +1,411 @@
...
+  fun _ _ h1 h2 => by simp only [inner_add_left, map_add, h1, h2]
+
+variable (𝕜 E F) in
+/-- The linear isometry equivalence version of `TensorProduct.comm`. -/
+def commIsometry : E ⊗[𝕜] F ≃ₗᵢ[𝕜] F ⊗[𝕜] E :=
+  TensorProduct.comm 𝕜 E F |>.isometryOfInner inner_comm_comm
+
+@[simp] lemma commIsometry_apply (x : E ⊗[𝕜] F) :
+    commIsometry 𝕜 E F x = TensorProduct.comm 𝕜 E F x := rfl
+lemma commIsometry_symm :
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]:
```suggestion
@[simp] lemma commIsometry_symm :
```

File: Mathlib/LinearAlgebra/TensorProduct/Basis.lean [hunk 47]
```diff
@@ -53,6 +53,10 @@ theorem tensorProduct_repr_tmul_apply (b : Basis ι S M) (c : Basis κ R N) (m :
     (tensorProduct b c).repr (m ⊗ₜ n) (i, j) = c.repr n j • b.repr m i := by
   simp [tensorProduct]
 
+lemma coe_tensorProduct (b : Basis ι R M) (c : Basis κ R N) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: I'd be tempted to drop this lemma; you don't need it, and can use `tensorProduct_apply'` in your theorem below instead. @erdOne, do you have opinions?

File: Mathlib/LinearAlgebra/TensorProduct/Basis.lean [hunk 48]
```diff
@@ -188,4 +192,12 @@ instance Module.Free.tensor : Module.Free S (M ⊗[R] N) :=
 
 end CommSemiring
 
+theorem TensorProduct.basis_sum_repr {R E F : Type*} [CommSemiring R]
+    [AddCommGroup E] [Module R E] [AddCommGroup F] [Module R F]
+    {ι₁ ι₂ : Type*} [Fintype ι₁] [Fintype ι₂] (b₁ : Basis ι₁ R E) (b₂ : Basis ι₂ R F)
+    (x : TensorProduct R E F) :
+    x = ∑ i : ι₁, ∑ j : ι₂, (b₁.tensorProduct b₂).repr x (i, j) • b₁ i ⊗ₜ[R] b₂ j := by
+  conv_lhs => rw [← (b₁.tensorProduct b₂).sum_repr x]
+  simp [← Finset.sum_product', Basis.coe_tensorProduct]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: This one feels a little contrivedto me; I don't think we want a `sum_repr` lemma for every basis construction. How painful is it to just inline this into `inner_self`?

@erdOne, thoughts?

**Review by eric-wieser — APPROVED** [review]
Sorry for the bikeshedding, this looks in great shape now. A few minor comments that I'll let Andrew decide the importance of.

File: Mathlib/LinearAlgebra/TensorProduct/Basis.lean (hunk 48 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: Doing this inline seems like it might be annoying, but I can just have this as a `have` statement in `inner_self`. That's fine. Let's see what Andrew says.

File: Mathlib/Analysis/InnerProductSpace/TensorProduct.lean (hunk 42 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/TensorProduct.lean]: As a general rule, you almost never want `choose_spec` in a proof; either use `obtain` if you can, or the `choose` tactic if you can't (due to exists under foralls)

File: Mathlib/LinearAlgebra/TensorProduct/Basis.lean (hunk 48 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/TensorProduct/Basis.lean]: Ya know what, I'll remove it. I'll just add a comment saying "maybe turn this into a lemma" on the off chance that if we do use this again, then maybe we can have a lemma, otherwise, like you said, it seems a bit contrived.

Edit: actually, no comment necessary. I fully agree with you.

**Comment by themathqueen** [comment]
Alright, yipee, thanks y'all!
bors r+
